US08124628B2
Preparation of 3-chloro-6-(2,5-dimethyl-1H-pyrrol-1-yl)pyridazine (i-6a)
A mixture of p-TSA (117 mg, 0.618 mmol), 2,5-hexanedione (4.36 mL, 37.1 mmol) and 3-amino-6-chloropyridazine (4.00 g, 30.9 mmol) in toluene (150 mL) was heated at 140° C. for 5 h in a round bottom flask equipped with a condenser and Dean-Stark apparatus. The reaction mixture was cooled to rt and charcoal was added. The mixture was filtered through CELITE and concentrated in vacuo to afford the title compound i-6a. m/z (ES) 208 (MH)+.

reactant | p-TSA | 0.618 mmol, 117 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 2,5-hexanedione | 37.1 mmol, 4.36 mL | CC(CCC(C)=O)=O | C6H10O2
reactant | 3-amino-6-chloropyridazine | 30.9 mmol, 4.00 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | charcoal | C | CH4
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-6-(2,5-dimethyl-1H-pyrrol-1-yl)pyridazine | ClC=1N=NC(=CC1)N1C(=CC=C1C)C | C10H10ClN3
